US07521451B2
5,6-dimethyl-3-propoxycarbonylmethyl-2-(3-pyridyl)-isoindolin-1-one [IUPAC name: propyl 2-[5,6-dimethyl-3-oxo-2-(3-pyridinyl)-2,3-dihydro-1H-isoindol-1-yl]acetate]
To a solution of 5,6-dimethyl-3-carboxymethyl-2-(3-pyridyl)isoindolin-1-one [IUPAC name: 2-[5,6-dimethyl-3-oxo-2-(3-pyridinyl)-2,3-dihydro-1H-isoindol-1-yl]acetic acid] (74 mg, 0.25 mmol), n-propyl alcohol (16 mg, 0.27 mmol) and 4-dimethylaminopyridine (3 mg, 0.025 mmol) in dichloromethane was added 1-ethyl-3-(3-dimethylamino-propyl)carbodiimide hydrochloride (53 mg, 0.27 mmol) at 5° C. and the temperature was raised to 25° C. over a period of 1.5 hrs. The reaction solution was concentrated under reduced pressure, and water was added to the residue, followed by extracting with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate solution, successively water, dried, and concentrated under reduced pressure to give 34 mg of the title compound.

reactant | 5,6-dimethyl-3-carboxymethyl-2-(3-pyridyl)isoindolin-1-one | 0.25 mmol, 74 mg | CC=1C=C2C(N(C(C2=CC1C)=O)C=1C=NC=CC1)CC(=O)O | C17H16N2O3
reactant | n-propyl alcohol | 0.27 mmol, 16 mg | C(CC)O | C3H8O
reactant | 1-ethyl-3-(3-dimethylamino-propyl)carbodiimide hydrochloride | 0.27 mmol, 53 mg | Cl.C(C)N=C=NCCCN(C)C
catalyst | 4-dimethylaminopyridine | 0.025 mmol, 3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5,6-dimethyl-3-propoxycarbonylmethyl-2-(3-pyridyl)-isoindolin-1-one | 34 mg | CC=1C=C2C(N(C(C2=CC1C)=O)C=1C=NC=CC1)CC(=O)OCCC | C20H22N2O3
